2200-03-03 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2200-3-2**] 08:01 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-3**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2200-3-3**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 79 (66 - 89) bpm
   BP: 90/42(51) {84/35(49) - 108/63(96)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 20 (7 - 21)mmHg
   Total In:
                                                                    683 mL
                                                                  1,367 mL
   PO:
   TF:
   IVF:
                                                                    683 mL
                                                                  1,367 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    673 mL
                                                                  1,367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Morbidly obese, lethargic, NAD.  Responds
   appropriately to questions with probing.
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, atraumatic.  No conjunctival
   pallor. No scleral icterus. PERRLA/EOMI. mucous membranes very dry
   Cardiovascular: Distant heart sounds, Regular rhythm, normal rate.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Distant, difficult to assess
   Abdominal: Obese, mild tenderness to deep palpation
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed, bilateral heel ulcers.  Left ulcer is necrotic
   with edematous, erythematous margins.  No fluctuance.  Multiple areas
   of skin breakdown bilaterally on the lower extremities.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   339 K/uL
   9.6 g/dL
   60
   2.9 mg/dL
   24 mEq/L
   4.5 mEq/L
   47 mg/dL
   106 mEq/L
   143 mEq/L
   31.1 %
   28.0 K/uL
        [image002.jpg]
                             [**2200-3-2**]  09:28 PM
                             [**2200-3-3**]  04:00 AM
                             [**2200-3-3**]  06:00 AM
   WBC
   28.0
   Hct
   31.1
   Plt
   339
   Cr
   2.9
   Glucose
   120
   51
   60
   Other labs: Lactic Acid:3.6 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with decreased
   PO intake, diarrhea, and [**Known lastname 4459**], also with hypothermia and
   leukocytosis.
   .
   #. Leukocytosis/hypotermia: Patient is likely infected, leading to the
   current presentation.  Possible sources include GI tract with a viral
   gastroenteritis, or C. diff.  Her elevated lactate makes me concerned
   for this.  Other sources could be her skin ulcers, which appear
   infected to me, specifically on the left heel, or a pneumonia vs. a
   parapneumonic effusion, given her new unilateral right sided pleural
   effusion and cough.
   -Will send blood, urine, sputum and wound cultures.  Will also send
   stool for C. diff.
   -Monitor fluid status with CVP and UOP, given concern for SIRS.
   -Will treat empirically with vancomycin, zosyn, and flagyl to
   empirically cover for a hospital acquired PNA and C. diff
   -Monitor lactates with hydration
   .
   #. [**Known lastname **]: Likely secondary to decreased POs, and diarrhea.
   Evidenced by likely pre-renal failure and may account for elevated
   lactate.
   -Will provide fluid boluses to maintain CVP 8-12, UOP 75cc/hr
   -WIll provide maintenance IV fluids thereafter
   .
   #. Elevated lactate: Related to ongoing infection vs. [**Known lastname 4459**]
   -Will re-check with ongoing hydration
   .
   #. Acute renal failure: likely pre-renal given decreased POs and
   diarrhea.
   -Will re-check with AM labs after hydration, if it continues to be
   elevated, can send urine lytes/sediment
   -Renally dose meds
   .
   #. R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   -Empiric coverage with vanc/zosyn as above.
   .
   #. DM
   -QID fingersticks with ISS, holding PO meds in the setting of infection
   and hypoglycemia.
   .
   #. HTN: hold home regimen in the setting of ongoing volume losses.
   .
   #. S/p recent femur fracture: continue current regimen of enoxaparin
   .
   #. Chronic anemia: stable at baseline.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   79 F obese F with PMH DM, cellulitis, R femoral fracture, who presents
   with change in MS [**First Name (Titles) 43**] [**Last Name (Titles) 4459**].
   Exam notable for BP 76/48 HR 69 RR 16 with 100% sat on 2 lpm. Labs
   notable for WBC 29.9, Cr 2.8 , lactate 5.1. CXR with
   consolidation/atelectasis in RLL with effusion. Patient is critically
   ill  with hypotension. Fluid bolus with 500 cc NS initiated with
   improvement in BP to 80s. Agree with plan to fluid resuscitate, treat
   pneumonia with Vanc, Zosyn (treat as hosp-acquired), and Flagyl for
   possible cdiff.
   MEDS
                    1. MetRONIDAZOLE 500 mg IV Q8H d1=[**3-2**]
   6. Miconazole Powder 2% 1 Appl TP QID:PRN
   2. Piperacillin-Tazobactam Na 2.25 g IV Q8H d1=[**3-2**]
   7. Morphine Sulfate 2-4 mg IV Q4H:PRN pain
   3. Piperacillin-Tazobactam Na 4.5 gm IV ONCE [**3-3**]
   8. Ondansetron 4-8 mg IV Q8H:PRN
   4. Enoxaparin Sodium 30 mg SC Q24H
   9. Lidocaine 5% Patch 1 PTCH TD DAILY
   5. Insulin SC  (per Insulin Flowsheet)    Sliding Scale
   10. TraMADOL (Ultram) 75 mg PO Q8H:PRN pain

2200-03-04 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79F with a PMH s/f diabetes presenting with decreased
   PO intake, diarrhea, and dehydration, also with hypothermia and
   leukocytosis.
   24 Hour Events:
 ARTERIAL LINE - START [**2200-3-3**] 11:21 AM
 SPUTUM CULTURE - At [**2200-3-3**] 01:14 PM
 BRONCHOSCOPY - At [**2200-3-3**] 04:40 PM
 ULTRASOUND - At [**2200-3-4**] 12:30 AM
   kidney ultrasound done
   [**3-3**]
   - Bronch RML/RLL narrowed, minimal seen, L side normal.
   - Renal consulted for anuria, they think likely obstruction - want CT
   abd vs renal US tonight. Will see in AM. If does urinate want UA, urine
   prot/cr ratio, urine eos.
   - flushed this AM and got 15cc
   - Ortho: no signs of wound infxn, femur XR
   - Podiatry: wound cx, foot XR 3views of foot, multipodus boot to
   offload heel, wet ->dry dressing changes
   - 7.34/34/65/24/0 --> incr PEEP to 15
   -  Pt hypoglycemic in 50s throughout the night, received 1/2amp D50s,
   and D5 @ 40ml/h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-3**] 01:04 PM
   Metronidazole - [**2200-3-3**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-4**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-3**] 01:04 PM
   Heparin Sodium (Prophylaxis) - [**2200-3-3**] 01:04 PM
   Dextrose 50% - [**2200-3-4**] 03:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-4**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.4
C (95.8
   HR: 72 (64 - 90) bpm
   BP: 108/52(69) {75/41(52) - 170/85(114)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (6 - 19)mmHg
   Mixed Venous O2% Sat: 59 - 63
   Total In:
                                                                  4,453 mL
                                                                    539 mL
   PO:
   TF:
   IVF:
                                                                  4,403 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                     11 mL
                                                                     24 mL
   Urine:
                                                                     11 mL
                                                                     24 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,442 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.44/35/77/23/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Morbidly obese, lethargic, NAD.  Responds
   appropriately to questions with probing.
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, atraumatic.  No conjunctival
   pallor. No scleral icterus. PERRLA/EOMI. mucous membranes very dry
   Cardiovascular: Distant heart sounds, Regular rhythm, normal rate.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Distant, difficult to assess
   Abdominal: Obese, mild tenderness to deep palpation
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed, bilateral heel ulcers.  Left ulcer is necrotic
   with edematous, erythematous margins.  No fluctuance.  Multiple areas
   of skin breakdown bilaterally on the lower extremities.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   279 K/uL
   8.9 g/dL
   96 mg/dL
   3.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   48 mg/dL
   107 mEq/L
   143 mEq/L
   28.1 %
   19.2 K/uL
        [image002.jpg]
                             [**2200-3-2**]  09:28 PM
                             [**2200-3-3**]  04:00 AM
                             [**2200-3-3**]  06:00 AM
                             [**2200-3-3**]  11:45 AM
                             [**2200-3-3**]  01:25 PM
                             [**2200-3-3**]  07:12 PM
                             [**2200-3-3**]  07:33 PM
                             [**2200-3-4**]  02:50 AM
                             [**2200-3-4**]  03:38 AM
   WBC
   28.0
   19.2
   Hct
   31.1
   28.1
   Plt
   339
   279
   Cr
   2.9
   3.3
   3.3
   TCO2
   25
   26
   24
   25
   Glucose
   120
   51
   60
   44
   96
   Other labs: PT / PTT / INR:23.8/38.7/2.3, ALT / AST:14/37, Alk Phos / T
   Bili:125/0.7, Lactic Acid:3.8 mmol/L, Albumin:2.5 g/dL, LDH:521 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with decreased
   PO intake, diarrhea, and dehydration, also with hypothermia and
   leukocytosis.
   # Sepsis
   # Anuria
   .
   #. Leukocytosis, hypotension: Pt presenting as septic. Has mutiple
   possible sources of infection
 C.diff (diarrhea, recent abx),  skin
   ulcers, HAP (effusion possibly parapneumonic, and cough), ORIF
   - Pancultures, including wound. Cdiff to be sent when pt has BM.
   - s/p elective intubation, given worsening pulmonary edema with fluid
   resuscitation and need to continue IVF. Will provide fluid boluses to
   maintain CVP 8-12, UOP 75cc/hr
   -Will continue empirical vancomycin, zosyn, and flagyl to empirically
   cover for a hospital acquired PNA and C. diff
   -Monitor lactates, renal function, mentation for markers of perfusion.
   -Will reassess with IVF and via A-line if pt requires pressors
 if so,
   will start with NE.
   -TBW podiatry re foot wounds
   .
   #. Acute renal failure: Currently anuric. Likely initially pre-renal
   given decreased POs and diarrhea, but persistent failure suggest ATN
   -sent urine lytes
   -Renally dose meds
   .
   #. R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   -Empiric coverage with vanc/zosyn as above.
   .
   #. DM
   -QID fingersticks with ISS, holding PO meds in the setting of
   infection, renal failure and hypoglycemia.
   .
   #. HTN: hold home regimen in the setting of ongoing volume losses.
   .
   #. S/p recent femur fracture: continue current regimen of enoxaparin
   .
   #. Chronic anemia: stable at baseline.
   .
   # FEN: NPO, lytes prn, no IVF (diuresing)
   # PPx: SC hep, IV PPI, bowel regimen
   # Lines: A-line, central line?, PIV
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-2**] 08:01 PM
   20 Gauge - [**2200-3-3**] 01:00 AM
   Arterial Line - [**2200-3-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-03-05 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with decreased
   PO intake, diarrhea, dehydration, hypothermia and leukocytosis
   concerning for septic shock from HAP vs C Diff.  Has required
   intubation for fluid overload in the setting of volume resuscitation.
   24 Hour Events:
   - TSH elevated, sent rest of thyroid panel
   - CT scan showed enlarged uterus,  Fistula or infection is suspected.
   Adjacent 9 x 8 cm soft tissue mass centered at the right iliac crest
   with associated right iliac [**Doctor First Name **] bone destruction represents metastasis
   (likely from uterine carinoma).  GYN ONC and ONC consults placed, to
   see pt tomorrow.
   - CT chest showed pleural effusion, discussed with IP, IP thought too
   risky to tap so have put that on the back-burner while we sort out onc
   issues.
   - Wound, sputum growing coag + staph. Pt last got Vanc on [**3-3**], dosing
   is q48h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-3**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-4**] 11:00 PM
   Metronidazole - [**2200-3-5**] 12:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other medications:
   1. Morphine Sulfate 2-4 mg IV Q4H:PRN
   2. Chlorhexidine Rinse 15 ml ORAL [**Hospital1 **]
   3. Ondansetron 4-8 mg IV Q8H:PRN
   4. Pantoprazole 40 mg IV Q24H
   5. Docusate Sodium 200 mg PO BID
   6. Zosyn 2.25 g IV Q8H d1=[**3-2**]
   7. Insulin SC SS
   8. Senna 2 TAB PO BID:PRN
   9. Flagyl  500mg IV Q8H d1=[**3-2**]
   10. Miconazole Powder 2% TP QID:PRN
   11. TraMADOL 75 mg PO Q8H:PRN pain
   Flowsheet Data as of  [**2200-3-5**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.2
   HR: 100 (74 - 102) bpm
   BP: 112/54(72) {66/35(46) - 122/59(78)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 15 (15 - 15)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  3,006 mL
                                                                    654 mL
   PO:
   TF:
                                                                    105 mL
                                                                    165 mL
   IVF:
                                                                  2,121 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                    232 mL
                                                                     70 mL
   Urine:
                                                                    132 mL
                                                                     70 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,774 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 30 cmH2O
   SpO2: 93%
   ABG: 7.31/43/78.[**Numeric Identifier 274**]/19/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   9.5 g/dL
   68 mg/dL
   3.7 mg/dL
   19 mEq/L
   4.4 mEq/L
   48 mg/dL
   101 mEq/L
   139 mEq/L
   30.6 %
   44.2 K/uL
        [image002.jpg]
                             [**2200-3-3**]  06:00 AM
                             [**2200-3-3**]  11:45 AM
                             [**2200-3-3**]  01:25 PM
                             [**2200-3-3**]  07:12 PM
                             [**2200-3-3**]  07:33 PM
                             [**2200-3-4**]  02:50 AM
                             [**2200-3-4**]  03:38 AM
                             [**2200-3-4**]  03:00 PM
                             [**2200-3-5**]  04:00 AM
                             [**2200-3-5**]  04:22 AM
   WBC
   19.2
   42.1
   44.2
   Hct
   28.1
   33.5
   30.6
   Plt
   279
   302
   259
   Cr
   3.3
   3.3
   3.6
   3.7
   TCO2
   25
   26
   24
   25
   23
   Glucose
   60
   44
   96
   51
   68
   Other labs: PT / PTT / INR:23.8/38.7/2.3, ALT / AST:14/37, Alk Phos / T
   Bili:125/0.7, Lactic Acid:5.3 mmol/L, Albumin:2.5 g/dL, LDH:521 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with decreased
   PO intake, diarrhea, dehydration, hypothermia and leukocytosis
   concerning for septic shock from HAP vs C Diff.  Has required
   intubation for fluid overload in the setting of volume resuscitation.
   # Sepsis
 likely has sepsis physiology with hypotension and
   hypoglycemia (otherwise hypoglycemia could be from meds). However pt
   lactate not increasing. Pt has mutiple possible sources of infection
   C.diff (diarrhea, recent abx),  skin ulcers, HAP (effusion possibly
   parapneumonic, and cough), ORIF, vs uterine infection/abscess (cannot
   be ruled out by radiology)
   - f/u bronch cx
   - f/u w/ XR of foot, XR femur and f/u ortho/podiatry as contributing
   source
   - Will continue empirical vancomycin, zosyn, and flagyl to empirically
   cover for a hospital acquired PNA and C. diff
   - wean levophed with MAP goal > 60
   - limit fluids as much as possible with anuria
   .
   # CT findings: worrisome for endometrial cancer with metastasis.
   -    Gyn Onc and Heme onc following
   -    Will need tissue biopsy : endometrial at bedside vs spinal lesion
   # Anuria-  Renal consulted for anuria- considering ATN vs. obstruction.
   Considering obstruction . Renal US was unrevealing from obesity.
   Bladder pressure was 9 and did not support compartment syndrome. ATN a
   possibility
   - no sign of obstruction on CT
   - UA, urine prot/cr ratio, urine eos.
   - consolidate fluids
   - check vanco trough tomorrow AM for redosing
   - may need HD if family agrees, renal following
   #. R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   -Empiric coverage with vanc/zosyn as above.
   - speak to IP for tap
   .
   #. DM/hypoglycemia: possibly from not clearing mefromin from urine,
   otherwise synthetic fxnQID fingersticks
   - continue D5W at 40ml/h
   - continue amp D50 to minimize fluids
   .
   # Hypotyhyroid: likely sick euthyroid given normal T4
   .
   #. S/p recent femur fracture: held SQH overnight
   #. Chronic anemia: stable at baseline, ?thalesemia
   .
   # FEN: NG tube
   # PPx: SC hep, IV ppi, bowel regimen
   # Lines: A-line,  Left IJ, PIV
 20gauge
   # Full Code
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-3-4**] 05:15 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-2**] 08:01 PM
   20 Gauge - [**2200-3-3**] 01:00 AM
   Arterial Line - [**2200-3-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-03-06 12:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes
   presenting with dehydration and leukocytosis concerning for septic
   shock from HAP vs C Diff.  Has required intubation for fluid overload
   in the setting of volume resuscitation.  Now with new pelvic mass
   concerning for endometrial ca.
   24 Hour Events:
   Family gathering, should all be in town by friday. All want to see pt
   before deciding to stop aggressive care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-3**] 01:04 PM
   Metronidazole - [**2200-3-6**] 07:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-6**] 07:26 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-6**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 111 (99 - 120) bpm
   BP: 99/46(62) {64/39(34) - 151/148(287)} mmHg
   RR: 21 (11 - 23) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,122 mL
                                                                  1,085 mL
   PO:
             TF:
                                                                    557 mL
                                                                    154 mL
   IVF:
                                                                  1,536 mL
                                                                    930 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                    698 mL
   Urine:
                                                                    365 mL
                                                                    508 mL
   NG:
   Stool:
   Drains:
   190 mL
   Balance:
                                                                  1,607 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.34/43/77.[**Numeric Identifier **]/21/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Obese
   Eyes / Conjunctiva: Pinpoint pupils
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 3+, Left: 3+, Anasarca
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   9.3 g/dL
   88 mg/dL
   3.9 mg/dL
   21 mEq/L
   4.1 mEq/L
   50 mg/dL
   105 mEq/L
   141 mEq/L
   29.8 %
   33.7 K/uL
        [image002.jpg]
                             [**2200-3-3**]  07:33 PM
                             [**2200-3-4**]  02:50 AM
                             [**2200-3-4**]  03:38 AM
                             [**2200-3-4**]  03:00 PM
                             [**2200-3-5**]  04:00 AM
                             [**2200-3-5**]  04:22 AM
                             [**2200-3-5**]  05:35 PM
                             [**2200-3-6**]  04:00 AM
                             [**2200-3-6**]  04:43 AM
                             [**2200-3-6**]  06:12 AM
   WBC
   19.2
   42.1
   44.2
   43.3
   33.7
   Hct
   28.1
   33.5
   30.6
   28.8
   29.8
   Plt
   279
   302
   259
   227
   226
   Cr
   3.3
   3.6
   3.7
   3.8
   3.9
   TCO2
   24
   25
   23
   24
   24
   Glucose
   96
   51
   68
   70
   88
   Other labs: PT / PTT / INR:21.2/36.0/2.0, ALT / AST:14/37, Alk Phos / T
   Bili:125/0.7, Differential-Neuts:92.7 %, Band:0.0 %, Lymph:3.7 %,
   Mono:1.5 %, Eos:1.8 %, Lactic Acid:4.2 mmol/L, Albumin:2.5 g/dL,
   LDH:638 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with
   dehydration and leukocytosis concerning for septic shock from HAP vs C
   Diff.  Has required intubation for fluid overload in the setting of
   volume resuscitation.  Now with new pelvic mass concerning for
   endometrial ca.
   # Sepsis - Pt has mutiple possible sources of infection
 C.diff
   (diarrhea, recent abx),  skin ulcers, HAP (effusion possibly
   parapneumonic, and cough), ORIF, vs uterine infection/abscess (cannot
   be ruled out by radiology). BAL cx growing coag + SA.
   - f/u w/ XR of foot, XR femur and f/u ortho/podiatry as contributing
   source
   - Will continue empirical vancomycin, zosyn, and flagyl to empirically
   cover for a hospital acquired PNA and C. diff
   - wean levophed with MAP goal > 60
   - limit fluids as much as possible with anuria
   # ARF and anuria-  ATN most likely, with question of TLS, although no
   uric acid crystals on UA from admission and pelvic mass most likely
   endometrial ca which would be unlikely to cause spont TLS.
   - no sign of obstruction on CT
   - consolidate fluids
   - vanc dosing is q48h, check trough
   - appreciate renal recs
   - f/u onc recs re: ? TLS, as uric acid is 13.5
   # Malignancy: Likely will not pursue tissue biopsy for diagnosis as
   family is not interested in invasive procdures, but true goals of care
   discussion being postponed until [**2200-2-7**].
   - appreciate gyn onc and onc recs
   - CEA is elevated, follow up CA 27.29
   # R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   on hold now as risky, even with IP
   -Empiric coverage with vanc/zosyn as above.
   - IP aware that [**Female First Name (un) 231**] is on hold until goals of care discussion on
   [**2200-2-7**]
   #  DM/hypoglycemia: possibly from not clearing meformin from urine,
   otherwise synthetic fxnQID fingersticks
   - continue D5W at 40ml/h
   - continue amp D50 to minimize fluids
   # Hypotyhyroid: likely sick euthyroid given normal T4
   # S/p recent femur fracture: sub q heparin as renal failure does not
   permit lovenox at this time.
   # Chronic anemia: stable at baseline, ?thalesemia or malignancy
   # FEN: NG tube
   # PPx: SC hep, IV ppi, bowel regimen
   # Lines: A-line,  Left IJ, PIV
 20gauge
   # DNR
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-3-6**] 04:00 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-2**] 08:01 PM
   Arterial Line - [**2200-3-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-03-07 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes
   presenting with dehydration and leukocytosis concerning for septic
   shock from HAP vs C Diff.  Has required intubation for fluid overload
   in the setting of volume resuscitation.  Now with new pelvic mass
   concerning for endometrial ca.
   24 Hour Events:
   - UOP improved (1.2L) Renal encouraged, no need for HD
   - TLS labs down uric acid 13.4 -> 12.9
   - Hem/Onc f/u tumor markers (pending)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-6**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-6**] 10:56 PM
   Metronidazole - [**2200-3-6**] 11:33 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-3-6**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-7**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 109 (89 - 120) bpm
   BP: 105/48(66) {94/44(56) - 129/100(106)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,631 mL
                                                                    449 mL
   PO:
             TF:
                                                                    477 mL
                                                                    260 mL
   IVF:
                                                                  2,154 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,723 mL
                                                                    305 mL
   Urine:
                                                                  1,238 mL
                                                                    125 mL
   NG:
   105 mL
   Stool:
   Drains:
                                                                    335 mL
   Balance:
                                                                    908 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.37/40/78.[**Numeric Identifier 274**]/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: pinpoint pupils
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   9.1 g/dL
   118 mg/dL
   3.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   53 mg/dL
   107 mEq/L
   140 mEq/L
   28.7 %
   33.7 K/uL
        [image002.jpg]
                             [**2200-3-4**]  03:00 PM
                             [**2200-3-5**]  04:00 AM
                             [**2200-3-5**]  04:22 AM
                             [**2200-3-5**]  05:35 PM
                             [**2200-3-6**]  04:00 AM
                             [**2200-3-6**]  04:43 AM
                             [**2200-3-6**]  06:12 AM
                             [**2200-3-6**]  05:03 PM
                             [**2200-3-7**]  04:56 AM
                             [**2200-3-7**]  05:16 AM
   WBC
   42.1
   44.2
   43.3
   33.7
   Hct
   33.5
   30.6
   28.8
   29.8
   28.7
   Plt
   [**Telephone/Fax (3) 4567**]26
   197
   Cr
   3.6
   3.7
   3.8
   3.9
   3.9
   3.5
   TCO2
   23
   24
   24
   24
   Glucose
   51
   68
   70
   88
   165
   118
   Other labs: PT / PTT / INR:20.6/37.3/1.9, ALT / AST:14/37, Alk Phos / T
   Bili:125/0.7, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:6.0 %, Lactic Acid:4.2 mmol/L, Albumin:2.5 g/dL,
   LDH:615 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with
   dehydration and leukocytosis concerning for septic shock from HAP vs C
   Diff.  Has required intubation for fluid overload in the setting of
   volume resuscitation.  Now with new pelvic mass concerning for
   endometrial ca.
    # Sepsis - Pt has mutiple possible sources of infection
 C.diff
   (diarrhea, recent abx),  skin ulcers, HAP (effusion possibly
   parapneumonic, and cough), ORIF, vs uterine infection/abscess (cannot
   be ruled out by radiology). BAL cx growing coag + SA.
   - f/u w/ XR of foot, XR femur and f/u ortho/podiatry as contributing
   source
   - Will continue empirical vancomycin, zosyn, and flagyl to empirically
   cover for a hospital acquired PNA and C. diff
   - wean levophed with MAP goal > 60
   - limit fluids as much as possible with anuria
   # ARF and anuria-  ATN most likely, with question of TLS, although no
   uric acid crystals on UA from admission and pelvic mass most likely
   endometrial ca which would be unlikely to cause spont TLS.
   - no sign of obstruction on CT
   - consolidate fluids
   - vanc dosing is q48h, check trough
   - appreciate renal recs
   - f/u onc recs re: ? TLS, as uric acid is 13.5
   # Malignancy: Likely will not pursue tissue biopsy for diagnosis as
   family is not interested in invasive procdures, but true goals of care
   discussion being postponed until [**2200-2-7**].
   - appreciate gyn onc and onc recs
   - CEA is elevated, follow up CA 27.29
   # R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   on hold now as risky, even with IP
   -Empiric coverage with vanc/zosyn as above.
   - IP aware that [**Female First Name (un) 231**] is on hold until goals of care discussion on
   [**2200-2-7**]
   #  DM/hypoglycemia: possibly from not clearing meformin from urine,
   otherwise synthetic fxnQID fingersticks
   - continue D5W at 40ml/h
   - continue amp D50 to minimize fluids
   # Hypotyhyroid: likely sick euthyroid given normal T4
   # S/p recent femur fracture: sub q heparin as renal failure does not
   permit lovenox at this time.
   # Chronic anemia: stable at baseline, ?thalesemia or malignancy
   # FEN: NG tube
   # PPx: SC hep, IV ppi, bowel regimen
   # Lines: A-line,  Left IJ, PIV
 20gauge
   # DNR
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-3-7**] 01:36 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-2**] 08:01 PM
   Arterial Line - [**2200-3-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-03-08 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with
   dehydration and leukocytosis concerning for septic shock from HAP.  Has
   required intubation for fluid overload in the setting of volume
   resuscitation.  Now with new pelvic mass concerning for endometrial ca
   [**15**] Hour Events:
   - tachycardia to 160's: Diltiazem 10mg IVx1, then 20mg IV x1
   - wide complex tachycardias on tele: amiodarone 150 bolus and drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-6**] 03:00 PM
   Metronidazole - [**2200-3-8**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-8**] 12:54 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Amiodarone - 1 mg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-3-7**] 04:16 PM
   Diltiazem - [**2200-3-8**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-8**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 144 (97 - 159) bpm
   BP: 108/55(72) {74/39(50) - 128/60(80)} mmHg
   RR: 21 (0 - 26) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  1,844 mL
                                                                  1,102 mL
   PO:
             TF:
                                                                    847 mL
                                                                    248 mL
   IVF:
                                                                    937 mL
                                                                    854 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    260 mL
   Urine:
                                                                    805 mL
                                                                    260 mL
   NG:
                                                                    105 mL
   Stool:
   Drains:
                                                                    120 mL
   Balance:
                                                                    739 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.30/45/102/20/-3
   Ve: 10.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: pinpoint
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   9.1 g/dL
   138 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.0 mEq/L
   57 mg/dL
   108 mEq/L
   139 mEq/L
   28.7 %
   29.4 K/uL
        [image002.jpg]
                             [**2200-3-6**]  04:00 AM
                             [**2200-3-6**]  04:43 AM
                             [**2200-3-6**]  06:12 AM
                             [**2200-3-6**]  05:03 PM
                             [**2200-3-7**]  04:56 AM
                             [**2200-3-7**]  05:16 AM
                             [**2200-3-7**]  03:57 PM
                             [**2200-3-8**]  01:56 AM
                             [**2200-3-8**]  05:59 AM
                             [**2200-3-8**]  06:19 AM
   WBC
   33.7
   29.4
   Hct
   29.8
   28.7
   Plt
   226
   197
   Cr
   3.9
   3.9
   3.5
   3.5
   3.4
   TCO2
   24
   24
   24
   24
   23
   Glucose
   88
   165
   118
   104
   138
   Other labs: PT / PTT / INR:20.6/37.3/1.9, ALT / AST:14/37, Alk Phos / T
   Bili:125/0.7, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:6.0 %, Lactic Acid:3.4 mmol/L, Albumin:2.5 g/dL,
   LDH:588 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PULMONARY EDEMA
 ACIDOSIS, METABOLIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Ms. [**Known lastname 3847**] is a 79F with a PMH s/f diabetes presenting with
   dehydration and leukocytosis concerning for septic shock from HAP.  Has
   required intubation for fluid overload in the setting of volume
   resuscitation.  Now with new pelvic mass concerning for endometrial ca
    # Sepsis
 Cellulitis (wound on foot growing MSSA) v HAP (BAL with
   coag + SA)
   - Will continue empirical vancomycin, zosyn, and flagyl to empirically
   cover for a hospital acquired PNA
   - wean levophed with MAP goal > 60
   # ARF and anuria-  ATN most likely as pt now improving. Unlikely TLS,
   as no uric acid crystals on UA from admission and pelvic mass most
   likely endometrial ca which would be unlikely to cause spont TLS.
   - no sign of obstruction on CT
   - vanc dosing is q48h, check trough
   - appreciate renal recs
   - TL labs q 6h per onc
    # Malignancy: Likely endometrial ca. with mets to spine.
   - goals of care discussion today re: plans to pursue tissue diagnosis.
   - appreciate gyn onc and onc recs
   - CEA is elevated, follow up CA 27.29
    # R pleural effusion: Unilateral nature in the setting of hypothermia,
   leukocytosis, and new cough raises my suspicion for a parapneumonic
   effusion.
   -Diagnostic thoracentesis under ultrasound guidance given body habitus
   on hold now as risky, even with IP
   -Empiric coverage with vanc/zosyn as above.
   - IP aware that [**Female First Name (un) 231**] is on hold until goals of care discussion on
   [**2200-2-7**]
   #  DM/hypoglycemia: possibly from not clearing meformin from urine,
   otherwise synthetic fxnQID fingersticks
   - continue D5W at 40ml/h
   - continue amp D50 to minimize fluids
    # Hypotyhyroid: likely sick euthyroid given normal T4
   # S/p recent femur fracture: sub q heparin as renal failure does not
   permit lovenox at this time.
    # Chronic anemia: stable at baseline, ?thalesemia or malignancy
   # FEN: NG tube
    # PPx: SC hep, IV ppi, bowel regimen
   # Lines: A-line,  Left IJ, PIV
 20gauge
    # DNR
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2200-3-8**] 05:57 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-2**] 08:01 PM
   Arterial Line - [**2200-3-3**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: